US09233946B2
The intermediate methyl 3-{[(5-amino-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoate was prepared from methyl 3-{[(5-bromo-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoate (45 mg, 0.1 mmol) and LiHMDS (1M in THF, 120 μL, 0.12 mmol) according to the General Procedure 4, described in Example 45, using a modified reaction time (130° C., 300 s, microwave reactor). The experiment was repeated four times giving 14 mg of methyl 3-{[(5-amino-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoate.

reactant | methyl 3-{[(5-bromo-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoate | 0.1 mmol, 45 mg | BrC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC=2C=C(C(=O)OC)C=CC2)C)C1 | C17H14BrNO4S2
reactant | LiHMDS | 0.12 mmol, 1M, 120 μL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
product | methyl 3-{[(5-amino-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoate | 14 mg | NC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC=2C=C(C(=O)OC)C=CC2)C)C1 | C17H16N2O4S2
